US06177419B1
6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-5-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine and 2-hydroxy-5-methylphenylboronic acid in 20% yield using method F; δH [2H6]-DMSO 13.57,(1H, b), 13.09,(1H, b), 8.33,(2H, t), 8.24,(2H, m), 8.15,(2H, m), 7.95,(1H, s), 7.70,(1H, d), 7.18,(1H, d), 7.10,(1H, d), 6.91,(2H, m), 3.84,)3H, s), 2.35,(3H, s); MS 385 (MH)+; HPLC retention time (system 1) 4.17 minutes.

reactant | 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxy-5-methylphenylboronic acid | OC1=C(C=C(C=C1)C)B(O)O | C7H9BO3
product | 6-(2-Hydroxy-3-methoxyphenyl)-6′-(2-hydroxy-5-methylphenyl)-2,2′-bipyridine | 20% yield | OC1=C(C=CC=C1OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)C)O | C24H20N2O3
